US05942544
Part A. 3-acetylbenzonitrile (1 gm, 6.8 mmol) and 3-cyanobenzaldehyde (2.76 gm, 17 mmol) are dissolved in a minimal amount of methyl chloride and 20 g of basic alumina was added. The resulting slurry was vigorously stirred at room temperature for 72 hrs. The slurry was filtered and the filter cake thoroughly washed with methylene chloride. The solvent was removed under vacuum and the residue chromatographed on silica gel eluting methylene chloride to give 3-[3-(3-cyanophenyl)-1-oxo-2-propenyl]benzonitrile as a solid 0.285 gm (15%). MS: (M+H)+ 259; 1H NMR (CDCl3): 7.6 (t, 2H), 7.7 (m, 2H), 7.85 (m, 3H), 7.95 (s, 1H), 8.25 (d, 1H), 8.35 (s, 1H).

reactant | 3-acetylbenzonitrile | 6.8 mmol, 1 gm | C(C)(=O)C=1C=C(C#N)C=CC1 | C9H7NO
reactant | 3-cyanobenzaldehyde | 17 mmol, 2.76 gm | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
solvent | methyl chloride | CCl | CH3Cl
product | 3-[3-(3-cyanophenyl)-1-oxo-2-propenyl]benzonitrile | 0.285 gm, 15% | C(#N)C=1C=C(C=CC1)C=CC(=O)C=1C=C(C#N)C=CC1 | C17H10N2O
